US09102688B2
2-Benzylsulfanyl-thiazole (Intermediate 436)
In a similar fashion using route 38 general procedure 92, 2-bromothiazole (700 mg, 4.2 mmol), K2CO3 (884 mg, 6.4 mmol), benzylmercaptan (795 ml 6.4 mmol) in DMSO (6 ml) at 150° C. for 4 h in sealed tube gave the title compound (740 mg, 83%) after purification by column chromatography with n-hexane/EtOAc (98:2) as the eluent.

reactant | 2-bromothiazole | 4.2 mmol, 700 mg | BrC=1SC=CN1 | C3H2BrNS
reactant | K2CO3 | 6.4 mmol, 884 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylmercaptan | 6.4 mmol, 795 ml | C(C1=CC=CC=C1)S | C7H8S
solvent | DMSO | 6 ml | CS(=O)C | C2H6OS
product | 2-Benzylsulfanyl-thiazole | 740 mg, 83% | C(C1=CC=CC=C1)SC=1SC=CN1 | C10H9NS2
